US04539429
A mixture of 40 g (0.25 mole) of 2-chlorobenzoic acid, 21 ml (0.26 mole) of 2-methoxyaniline, 3.84 g cupric acetate, 35.4 g of potassium carbonate and 155 ml of dimethylformamide was heated at 120° C. for 12 hours. The reaction mixture was poured into ice-water, neutralized with concentrated hydrochloric acid to pH 2, and stirred for one hour. The solid product was collected by filtration, air dried and recrystallized from toluene to give 28.61 g of 2-(2-methoxyphenylamino)benzoic acid.

reactant | 2-chlorobenzoic acid | 0.25 mole, 40 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-methoxyaniline | 0.26 mole, 21 ml | COC1=C(N)C=CC=C1 | C7H9NO
reactant | potassium carbonate | 35.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 155 ml | CN(C=O)C | C3H7NO
product | 2-(2-methoxyphenylamino)benzoic acid | 28.61 g | COC1=C(C=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C14H13NO3
